2102-01-06 09:49:00 Physician Attending Progress Note
Chief Complaint:
   Septic shock
   HPI:
   85 yo M w/ h/o DMII, CHF, dementia, and sacral ulcers, admitted with
   septic shock.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2102-1-6**] 04:00 AM
   Received patient from OSH
 MULTI LUMEN - START [**2102-1-6**] 05:37 AM
   placed at  OSH
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-1-6**] 05:15 AM
   Infusions:
   Diltiazem - 10 mg/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-1-6**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 82 (80 - 102) bpm
   BP: 112/55(69) {77/40(50) - 112/61(71)} mmHg
   RR: 32 (16 - 35) insp/min
   SpO2: 100%
   Heart rhythm: RBBB (Right Bundle Branch Block)
             Total In:
             5,754 mL
   PO:
             TF:
   IVF:
   1,754 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     40 mL
   Urine:
   40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  5,714 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 102
   PIP: 14 cmH2O
   Plateau: 9 cmH2O
   SpO2: 100%
   ABG: 7.32/36/389/20/-6
   Ve: 17.2 L/min
   PaO2 / FiO2: 648
   Physical Examination
   Intubated, sedated.
   PERRL.
   Very poor dentition.
   Regular S1,S2. No m/r/g
   b/l anterior basilar rhonchi.
   +bs. Soft. ND.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   359 K/uL
   268 mg/dL
   3.2 mg/dL
   20 mEq/L
   5.9 mEq/L
   89 mg/dL
   120 mEq/L
   152 mEq/L
   33.5 %
   27.5 K/uL
        [image002.jpg]
                            [**2102-1-6**]  04:26 AM
                            [**2102-1-6**]  04:43 AM
   WBC
   27.5
   Hct
   33.5
   Plt
   359
   Cr
   3.2
   TropT
   0.30
   TCO2
   19
   Glucose
   268
   Other labs: PT / PTT / INR:12.9/24.3/1.1, CK / CKMB /
   Troponin-T:579/32/0.30, ALT / AST:143/68, Alk Phos / T Bili:320/0.4,
   Differential-Neuts:93.6 %, Lymph:3.8 %, Mono:2.3 %, Eos:0.0 %, Lactic
   Acid:2.1 mmol/L, LDH:299 IU/L, Ca++:9.7 mg/dL, Mg++:3.0 mg/dL, PO4:6.8
   mg/dL
   Assessment and Plan
   85 m w/ h/o dementia, afib, with septic shock
   1. Septic shock- source pna vs.  sacral decub,
   -transduce CVP off fem line, prior to re-stie.
   -TTE to assess cardiac fxn.
   -empiric vanc, cefepime, flagyl, levoflox, and osteltamavir
   -f/u lactate
   2. Respiratory failure-  ? hypoxemic due to b/l infiltrates.  Currently
   on PS 8/5, 50% fio2 if either fio2 or PEEP inc will transition to low
   Vt.
   3. Afib
 d/c dilt gtt.  If TTE w/o evidence of CM will
   4. ARF
unknown baseline.  Oliguric.  Cr 2.0 at OSH
   -consult renal
   5. NSTEMI
   6. Hypernatremia
   7. Hyperkalemia- [**3-14**] ARF
   -f/u q6h
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   22 Gauge - [**2102-1-6**] 05:00 AM
   Multi Lumen - [**2102-1-6**] 05:37 AM, will d/c as placed at OSH, and
   resite.
   20 Gauge - [**2102-1-6**] 05:37 AM
   Prophylaxis:
   DVT: Hep sc
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full code for now, will d/w wife/dtr.
   Disposition :
   Total time spent:
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Mr. [**Known lastname 2065**] with Dr. [**Last Name (STitle) 7826**], whose note above
   reflects my input.  I would add/emphasize that this 85 y/o man with
   CHF, DM2, dementia, and decubitus ulcers is admitted with septic
   shock.  Receiving broad-spectrum antibiotics while awaiting cultures,
   with most likely sources being pneumonia or sacral decubitus.  In
   addition, treating and evaluating for influenza.  Remains ventilated
   during acute shock episode.  For ARF, UOP has picked up somewhat with
   hemodynamic management.  Awaiting studies and consultant opinion.
   Other issues as per Dr. [**Last Name (STitle) 7826**].
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 560**], MD
   on:[**2102-1-6**] 20:58 ------

2102-01-07 07:54:00 Physician Attending Progress Note
Chief Complaint:  Septic shock
   HPI: 85 m w/ h/o dementia, afib, with septic shock .
   24 Hour Events:
 BLOOD CULTURED - At [**2102-1-6**] 10:56 AM
 URINE CULTURE - At [**2102-1-6**] 10:56 AM
 ARTERIAL LINE - START [**2102-1-6**] 12:17 PM
 EKG - At [**2102-1-6**] 01:00 PM
 TRANSTHORACIC ECHO - At [**2102-1-6**] 03:00 PM
 EKG - At [**2102-1-6**] 03:47 PM
 SPUTUM CULTURE - At [**2102-1-6**] 10:11 PM
 MULTI LUMEN - START [**2102-1-7**] 02:48 AM
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-1-6**] 05:15 AM
   Levofloxacin - [**2102-1-6**] 11:51 AM
   Cefipime - [**2102-1-7**] 12:54 AM
   Metronidazole - [**2102-1-7**] 02:41 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Amiodarone - 0.5 mg/min
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.21 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-1-7**] 04:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-1-7**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 99 (80 - 109) bpm
   BP: 131/63(82) {90/48(61) - 131/70(87)} mmHg
   RR: 18 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 10 (4 - 13)mmHg
   Total In:
                                                                 11,933 mL
                                                                  2,845 mL
   PO:
   TF:
                                                                    177 mL
                                                                    292 mL
   IVF:
                                                                  7,196 mL
                                                                  2,553 mL
   Blood products:
   Total out:
                                                                    855 mL
                                                                    850 mL
   Urine:
                                                                    855 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 11,078 mL
                                                                  1,995 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 479 (430 - 553) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 95
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.28/30/82.[**Numeric Identifier 253**]/16/-11
   Ve: 11.3 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Intubated, sedated.
   PERRL.
   Very poor dentition.
   Regular S1,S2. No m/r/g
   b/l anterior basilar rhonchi.
   +bs. Soft. ND. NGT in place.
   Trace LE edema.
   Sacral decubs dressed.
   Labs / Radiology
   9.2 g/dL
   312 K/uL
   240 mg/dL
   2.6 mg/dL
   16 mEq/L
   4.3 mEq/L
   69 mg/dL
   120 mEq/L
   148 mEq/L
   30.0 %
   27.4 K/uL
        [image002.jpg]
                            [**2102-1-6**]  04:26 AM
                            [**2102-1-6**]  04:43 AM
                            [**2102-1-6**]  10:04 AM
                            [**2102-1-6**]  12:42 PM
                            [**2102-1-6**]  03:50 PM
                            [**2102-1-6**]  04:05 PM
                            [**2102-1-6**]  09:57 PM
                            [**2102-1-7**]  04:42 AM
                            [**2102-1-7**]  04:49 AM
   WBC
   27.5
   27.4
   Hct
   33.5
   30.0
   Plt
   359
   312
   Cr
   3.2
   3.2
   3.0
   2.7
   2.6
   TropT
   0.30
   0.38
   TCO2
   19
   18
   18
   15
   Glucose
   [**Telephone/Fax (3) 10214**]40
   Other labs: PT / PTT / INR:13.5/29.2/1.2, CK / CKMB /
   Troponin-T:196/17/0.38, ALT / AST:94/36, Alk Phos / T Bili:237/0.3,
   Differential-Neuts:93.6 %, Lymph:3.8 %, Mono:2.3 %, Eos:0.0 %, Lactic
   Acid:2.3 mmol/L, LDH:299 IU/L, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:6.3
   mg/dL
   85 m w/ h/o dementia, afib, with septic shock
   1. Septic shock- source pna vs.  sacral decub.
   -transduce CVP off fem line, prior to re-site.
   -TTE to assess cardiac fxn.
   -empiric vanc, cefepime, flagyl, levoflox, and osteltamavir
   -f/u lactate
   2. Respiratory failure-  ? hypoxemic due to b/l infiltrates.  Currently
   on PS 8/5, 50% fio2.  On ARDSnet protocol.
   3. Afib
 d/c dilt gtt.  No evidence of CM.  Continued on amiodarone
   gtt, transitioning to Neo.
   4. ARF
unknown baseline.  Oliguric.  Cr 2.0 at OSH.  Likely prerenal
   based on low Una.  Awaiting rest of urine electrolytes.
   -consult renal
   5. NSTEMI
 cont to trend Tn.
   6. Hypernatremia
 D5.
   7. Hyperkalemia- [**3-14**] ARF
   -f/u q6h
   8. PPM- will ask to be interrogatted.
   Other issues per Dr. [**Last Name (STitle) 944**]
s note.
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition: TFs, high residuals currently holding.
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2102-1-6**] 05:37 AM, will d/c as placed at OSH, and
   resite.
   20 Gauge - [**2102-1-6**] 05:37 AM
   Prophylaxis:
   DVT: Hep sc
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full code for now, will d/w wife/dtr.
   Disposition : ICU.
   Total time spent:  45 minutes, critically ill.
   ------ Protected Section ------
   Patient admitted to MICU with hypotension and respiratory failure,
   afib. Patient switched from levophed to phenylephrine due to
   tachycardia.  Lactate levels falling.  Gram positive bacteria growing
   in blood. FiO2 now down to 0.5 on PSV with PEEP=8.
   On exam, patient intubated and sedated. Chest with scattered rhonchi.
   Heart sounds soft. No gallop or murmur. Abdomen soft, non-tender.
   Extremities cool, and slightly mottled.
   Patient remains pressor dependent. Now that amiodarone load has been
   completed, would consider switching back from phenlyephrine to levophed
   and add vasopressin to regimen. Patients with sepsis are believed to be
   oxygen delivery dependent , which means that they should do better with
   beta agonists/inotropic agents.
   Oxygenation stable. Try to decrease PEEP if he is doing well on
   FIO2=0.5. CT scan does not appear to have diffuse parenchymal
   involvement.
   Condition discussed with family.
   Critical Care =35 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) 214**] [**Last Name (NamePattern1) **], MD
   on:[**2102-1-7**] 18:17 ------

2102-01-07 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2102-1-6**] 10:56 AM
 URINE CULTURE - At [**2102-1-6**] 10:56 AM
 ARTERIAL LINE - START [**2102-1-6**] 12:17 PM
 EKG - At [**2102-1-6**] 01:00 PM
 TRANSTHORACIC ECHO - At [**2102-1-6**] 03:00 PM
 EKG - At [**2102-1-6**] 03:47 PM
 SPUTUM CULTURE - At [**2102-1-6**] 10:11 PM
 MULTI LUMEN - START [**2102-1-7**] 02:48 AM
   ICU consent obtained, family updated
   Subclavian and A lines placed
   Echo: mild PA HTN, ef > 55
   Transitioned from dilt to amio for rate control without negative
   ionatrophy
   Started Tamiflu, Vanc, cefepime, levo, Flagyl, tube feeds;  Vanc to be
   dosed by levels.
   Renal consult: recommended volume resuscitation with NS and correction
   of hypernatremia with D5W.
   Gave extra NS bolus in AM for CVP < 10
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-1-6**] 05:15 AM
   Levofloxacin - [**2102-1-6**] 11:51 AM
   Cefipime - [**2102-1-7**] 12:54 AM
   Metronidazole - [**2102-1-7**] 02:41 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Amiodarone - 0.5 mg/min
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.21 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-1-7**] 04:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-1-7**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 99 (80 - 109) bpm
   BP: 131/63(82) {90/48(61) - 131/70(87)} mmHg
   RR: 18 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 10 (4 - 13)mmHg
   Total In:
                                                                 11,933 mL
                                                                  2,834 mL
   PO:
   TF:
                                                                    177 mL
                                                                    287 mL
   IVF:
                                                                  7,196 mL
                                                                  2,547 mL
   Blood products:
   Total out:
                                                                    855 mL
                                                                    850 mL
   Urine:
                                                                    855 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 11,078 mL
                                                                  1,984 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 479 (430 - 553) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 95
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.28/30/82.[**Numeric Identifier 253**]/16/-11
   Ve: 11.3 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   312 K/uL
   9.2 g/dL
   240 mg/dL
   2.6 mg/dL
   16 mEq/L
   4.3 mEq/L
   69 mg/dL
   120 mEq/L
   148 mEq/L
   30.0 %
   27.4 K/uL
        [image002.jpg]
                            [**2102-1-6**]  04:26 AM
                            [**2102-1-6**]  04:43 AM
                            [**2102-1-6**]  10:04 AM
                            [**2102-1-6**]  12:42 PM
                            [**2102-1-6**]  03:50 PM
                            [**2102-1-6**]  04:05 PM
                            [**2102-1-6**]  09:57 PM
                            [**2102-1-7**]  04:42 AM
                            [**2102-1-7**]  04:49 AM
   WBC
   27.5
   27.4
   Hct
   33.5
   30.0
   Plt
   359
   312
   Cr
   3.2
   3.2
   3.0
   2.7
   2.6
   TropT
   0.30
   0.38
   TCO2
   19
   18
   18
   15
   Glucose
   [**Telephone/Fax (3) 10214**]40
   Other labs: PT / PTT / INR:13.5/29.2/1.2, CK / CKMB /
   Troponin-T:196/17/0.38, ALT / AST:94/36, Alk Phos / T Bili:237/0.3,
   Differential-Neuts:93.6 %, Lymph:3.8 %, Mono:2.3 %, Eos:0.0 %, Lactic
   Acid:2.3 mmol/L, LDH:299 IU/L, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:6.3
   mg/dL
   Imaging: Echo: poor technical quality due to patient being on a
   ventilator. Left ventricular function is probably normal, a focal wall
   motion abnormality cannot be fully excluded. The right ventricle is not
   well seen. No pathologic valvular abnormality seen.
   Microbiology: Sputum:
   4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS AND
   CLUSTERS.
   Negative for Respiratory Viral Antigen
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   85 y/o M with hx of CHF, DM, sacral decubs, afib and dementia who
   presents with altered mental status and hypotension, likely secondary
   to septic shock from possible pneumonia.  Complicated by afib with RVR
   during presentation.
   .
   # Hypotension - likely secondary to septic shock from pneumonia vs.
   urinary source vs. sacral source.  No culture data available yet, but
   sent on arrival.  Was transferred on dopamine.  Flu DFA negative.
   - aggressive IV fluids for CVP > 12
   - wean pressors as tolerated to map >60
   - vanco, cefepime, levo for now for broad coverage; adding flagyl for
   anerobe coverage due to poor oral hygiene
   - osteltamivir  for flu treatment until culture negative
   - f/u XRays and cultures and legionella antigen
   .
   # Respiratory Failure - most likely secondary to pneumonia vs. altered
   mental status and inability to protect airway; probably more likley the
   PNA based on thick secretions.
   - PNA treatment as above.
   - low tidal volume ventilation on AC
   - serial ABGs
   .
   # Afib with RVR - had rates in the 190s with drop in BPs; now has
   normalized since being on dilt gtt.  [**Month (only) 8**] have been exaccerbated by
   peripheral dopa.
   - amio loaded, convert to 200 mg NG [**Hospital1 **] and trend LFTs
   - transition to PO dilt if possible
   - continue digoxin
   .
   # Trop leak - likely demand ischemia, trend trops/CKs; will get echo to
   rule out for wall motion abnormality
   -repeat EKG today
   - echo
   .
   # Hypernatremia - likely from poor PO intake and free water deficit.
   - D5W for 1L today at 100 cc/hr
   .
   # ARF - unknown baseline for patient, but has Cr 2.0 here, possibly
   from hypoperfusion ATN vs. other etiologies.  Is oliguric with <10cc/hr
   output.  Has hx of acute renal failure with Cr up to 7.2 at OSH about
   one month ago
   - renal consult
   - urine lytes
   - aggressive fluid hydration
   .
   # COPD - unknown extent to which this is contributing to his
   respiratory failure.
   - albuterol/ipratropium INH
   .
   # Sacral decubs
 wound consult
   .
   # CHF - has hx of CHF, although unknown EF; appears dry on exam, is
   intubated so stable if pulm edema were to develop is safe.
   - watch for edema
   .
   # Dementia - unclear baseline, will discuss with family
   .
   # Depression
 paxil 30 mg daily
   .
   # DM - unclear how controlled it is; will start basic sliding scale,
   titrate up as needed; on home latus 18qHS
   .
   # FEN - NPO for now, consider tube feeds when more stable
   # PPx - SQ heparin, bowel reg PRN, famoitidine
   # Access
 subclavian CVL, 2 PIVS; a-line
   # Comm - [**Doctor Last Name **], wife see chart
   # Code - full
   # Dispo - ICU for now
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2102-1-6**] 07:13 PM 37 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2102-1-6**] 05:00 AM
   20 Gauge - [**2102-1-6**] 05:37 AM
   Arterial Line - [**2102-1-6**] 12:17 PM
   Multi Lumen - [**2102-1-7**] 02:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2102-01-08 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - SVO2=87
   - Seen by plastics and sacral ulcer debrided at bedside. Most likely
   stage 2 not requiring OR, wound care c/s requested
   - swithced from neo to levophed/vasopressin overnight
   - Per pharmacy, treatment dose tamiflu should be 75mg daily given
   currently GFR
   - CT chest/abd/pelvis:
   1. Left basal effusion and scattered ground-glass opacities in both
   lungs with more confluent focal opacities in the lower lobes are highly
   suggestive of areas of infection and pneumonic consolidation. Please
   ensure follow-up to clearance.
   2. Bilateral renal lesions, some of which are likely simple cysts but
   others are more dense and a mass cannot be excluded. A dedicated renal
   ultrasound would help clarify further.
   3. Distended gallbladder, without evidence of wall thickening or
   pericholecystic fluid or inflammatory change.
 MULTI LUMEN - STOP [**2102-1-7**] 09:22 AM
   placed at  OSH
 EKG - At [**2102-1-8**] 02:00 AM
 BLOOD CULTURED - At [**2102-1-8**] 03:32 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2102-1-6**] 11:51 AM
   Vancomycin - [**2102-1-7**] 02:00 PM
   Cefipime - [**2102-1-7**] 11:47 PM
   Metronidazole - [**2102-1-8**] 02:39 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-1-8**] 02:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-1-8**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.2
   HR: 82 (76 - 119) bpm
   BP: 131/60(83) {77/47(62) - 135/75(92)} mmHg
   RR: 17 (16 - 28) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 10 (10 - 20)mmHg
   Mixed Venous O2% Sat: 87 - 87
   Total In:
                                                                  7,464 mL
                                                                    540 mL
   PO:
   TF:
                                                                    317 mL
   IVF:
                                                                  6,807 mL
                                                                    540 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    895 mL
   Urine:
                                                                  1,860 mL
                                                                    595 mL
   NG:
                                                                    120 mL
                                                                    150 mL
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  4,984 mL
                                                                   -355 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (460 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 19 cmH2O
   Plateau: 19 cmH2O
   Compliance: 41.8 cmH2O/mL
   SpO2: 90%
   ABG: 7.29/34/149/15/-8
   Ve: 10.4 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, PEG in place
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, very cool
   Skin:  Cool, sacral decub
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   260 K/uL
   8.2 g/dL
   137 mg/dL
   2.5 mg/dL
   15 mEq/L
   4.1 mEq/L
   61 mg/dL
   116 mEq/L
   142 mEq/L
   25.7 %
   20.4 K/uL
        [image002.jpg]
                            [**2102-1-6**]  12:42 PM
                            [**2102-1-6**]  03:50 PM
                            [**2102-1-6**]  04:05 PM
                            [**2102-1-6**]  09:57 PM
                            [**2102-1-7**]  04:42 AM
                            [**2102-1-7**]  04:49 AM
                            [**2102-1-7**]  08:53 AM
                            [**2102-1-8**]  03:09 AM
                            [**2102-1-8**]  03:15 AM
                            [**2102-1-8**]  03:24 AM
   WBC
   27.4
   20.4
   Hct
   30.0
   25.7
   Plt
   312
   260
   Cr
   3.0
   2.7
   2.6
   2.5
   TropT
   0.38
   0.28
   TCO2
   18
   18
   15
   18
   17
   Glucose
   238
   240
   137
   Other labs: PT / PTT / INR:14.6/34.8/1.3, CK / CKMB /
   Troponin-T:77/8/0.28, ALT / AST:94/36, Alk Phos / T Bili:237/0.3,
   Differential-Neuts:93.6 %, Lymph:3.8 %, Mono:2.3 %, Eos:0.0 %, Lactic
   Acid:1.7 mmol/L, LDH:299 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:5.9
   mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   85 y/o M with hx of CHF, DM, sacral decubs, afib and dementia who
   presents with altered mental status and hypotension, likely secondary
   to septic shock from possible pneumonia.  Complicated by afib with RVR
   during presentation.
   .
   # Hypotension - likely secondary to septic shock from pneumonia vs.
   urinary source vs. sacral source.  Was transferred on dopamine.  Flu
   DFA negative.  Sputum growing GPCs, GNRs and GPRs; also one positive
   blood cx with GPCs, so is likely secondary to pneumonia.
   - fluid resuccitated, goal CVP 8 today
   - transition from neo to levophed and vasopressin; will try to wean
   today as tolerated
   - vanco, cefepime, levo, flagyl for broad coverage
   - osteltamivir  for flu treatment until culture negative from state lab
   - f/u XRays and cultures and legionella antigen
   - follow SvO2
   - to eval for other sources
 CT abd without a source
   - [**Doctor First Name 91**] saw for decubs and debrided at bedside, do no think they are
   source of infection
   .
   # Respiratory Failure - most likely secondary to pneumonia, still
   having thick secretions
   - PNA treatment as above.
   - low tidal volume ventilation on AC
   - serial ABGs
   - try to wean vent as tolerated, possible to decrease PEEP today
   .
   # Afib with RVR - had rates in the 190s with drop in BPs; now has
   normalized since being on dilt gtt.  [**Month (only) 8**] have been exaccerbated by
   peripheral dopa.
   - in normal sinus rhythm now, amio will be next treatment
   - hold digoxin
   .
   # Trop leak - likely demand ischemia, trend trops/CKs; will get echo to
   rule out for wall motion abnormality
   -repeat EKG today
   - echo pending
   .
   # Hypernatremia - likely from poor PO intake and free water deficit.
   - resolved after D5W
   .
   # ARF - Likely FeNa 0.7 consistant with pre-renal etiology.  Improving
   with hydration.  unknown baseline for patient.  Urine output improved
   with resuscitation.  Has hx of acute renal failure with Cr up to 7.2 at
   OSH about one month ago
   - renal following; has improved and is having good urine output
   - continue to trend
   - renally dose meds
   .
   # COPD - unknown extent to which this is contributing to his
   respiratory failure.
   - albuterol/ipratropium INH
   .
   # Sacral decubs
 wound/[**Doctor First Name 91**] consult
   .
   # Dementia - unclear baseline, will discuss with family
   .
   # Depression
 paxil 30 mg daily
   .
   # DM - unclear how controlled it is; will start basic sliding scale,
   titrate up as needed; on home latus 18qHS
   .
   # FEN - NPO for now, consider tube feeds when more stable
   # PPx - SQ heparin, bowel reg PRN, famoitidine
   # Access
 subclavian CVL, 2 PIVS; a-line
   # Comm - [**Doctor Last Name **], wife see chart; need to revisit goals of care.  SW
   involved.
   # Code - full
   # Dispo - ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2102-1-6**] 05:00 AM
   Arterial Line - [**2102-1-6**] 12:17 PM
   Multi Lumen - [**2102-1-7**] 02:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2102-01-08 07:42:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2102-1-7**] 09:22 AM
   placed at  OSH
 EKG - At [**2102-1-8**] 02:00 AM
 BLOOD CULTURED - At [**2102-1-8**] 03:32 AM
   CT chest/abdomen
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2102-1-6**] 11:51 AM
   Vancomycin - [**2102-1-7**] 02:00 PM
   Cefipime - [**2102-1-7**] 11:47 PM
   Metronidazole - [**2102-1-8**] 02:39 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-1-8**] 02:39 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-1-8**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.2
   HR: 82 (76 - 119) bpm
   BP: 131/60(83) {77/47(62) - 135/75(92)} mmHg
   RR: 17 (16 - 28) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 10 (10 - 20)mmHg
   Mixed Venous O2% Sat: 87 - 87
   Total In:
                                                                  7,464 mL
                                                                    552 mL
   PO:
   TF:
                                                                    317 mL
   IVF:
                                                                  6,807 mL
                                                                    552 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    895 mL
   Urine:
                                                                  1,860 mL
                                                                    595 mL
   NG:
                                                                    120 mL
                                                                    150 mL
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  4,984 mL
                                                                   -343 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (460 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 19 cmH2O
   Plateau: 19 cmH2O
   Compliance: 41.8 cmH2O/mL
   SpO2: 90%
   ABG: 7.29/34/149/15/-8
   Ve: 10.4 L/min
   PaO2 / FiO2: 298
   Physical Examination
   Intubated, sedated.
   PERRL.
   Very poor dentition.
   Regular S1,S2. No m/r/g
   b/l anterior basilar rhonchi.
   +bs. Soft. ND. NGT in place.
   Trace LE edema.
   Sacral decubs dressed.
   Labs / Radiology
   8.2 g/dL
   260 K/uL
   137 mg/dL
   2.5 mg/dL
   15 mEq/L
   4.1 mEq/L
   61 mg/dL
   116 mEq/L
   142 mEq/L
   25.7 %
   20.4 K/uL
        [image002.jpg]
                            [**2102-1-6**]  12:42 PM
                            [**2102-1-6**]  03:50 PM
                            [**2102-1-6**]  04:05 PM
                            [**2102-1-6**]  09:57 PM
                            [**2102-1-7**]  04:42 AM
                            [**2102-1-7**]  04:49 AM
                            [**2102-1-7**]  08:53 AM
                            [**2102-1-8**]  03:09 AM
                            [**2102-1-8**]  03:15 AM
                            [**2102-1-8**]  03:24 AM
   WBC
   27.4
   20.4
   Hct
   30.0
   25.7
   Plt
   312
   260
   Cr
   3.0
   2.7
   2.6
   2.5
   TropT
   0.38
   0.28
   TCO2
   18
   18
   15
   18
   17
   Glucose
   238
   240
   137
   Other labs: PT / PTT / INR:14.6/34.8/1.3, CK / CKMB /
   Troponin-T:77/8/0.28, ALT / AST:94/36, Alk Phos / T Bili:237/0.3,
   Differential-Neuts:93.6 %, Lymph:3.8 %, Mono:2.3 %, Eos:0.0 %, Lactic
   Acid:1.7 mmol/L, LDH:299 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:5.9
   mg/dL
   Impression:
   85 y/o M with hx of DM, CHF, dementia and sacral ulcers was transferred
   from his nursing home to OSH for decreased consciousness and decreased
   BP.
   1. Septic shock- source pna vs.  sacral decub.    GPCs in blood, sputum
   with mult organisms but  given poor dentition unclear significance.
   -transduce CVP off fem line, prior to re-site.
   -TTE to assess cardiac fxn.
   -empiric vanc, cefepime, flagyl, levoflox, and osteltamavir
   -f/u lactate
   2. Respiratory failure-  hypoxemic, b/l on CXR.  Currently on PS 8/5,
   50% fio2.  On ARDSnet protocol.
   3. Afib
 d/c dilt gtt.  No evidence of CM.  Continued on amiodarone
   gtt, transitioning to Neo.
   4. ARF
unknown baseline.  Oliguric.  Cr 2.0 at OSH.  Likely prerenal
   based on low Una.  Awaiting rest of urine electrolytes.
   -consult renal
   -continue to improve
   5. NSTEMI
 cont to trend Tn.
   6. NG acidosis-
   7. Hyperkalemia- [**3-14**] ARF
   -f/u q6h
   8. PPM- will ask to be interrogatted.
   Other issues per Dr. [**Last Name (STitle) 6722**]
s note.
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition: TFs, high residuals currently holding.
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2102-1-6**] 05:37 AM, will d/c as placed at OSH, and
   resite.
   20 Gauge - [**2102-1-6**] 05:37 AM
   Prophylaxis:
   DVT: Hep sc
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full code for now, will d/w wife/dtr.
   Disposition : ICU.
   Total time spent:  45 minutes, critically ill.
   ------ Protected Section ------
   I was physically present with the housestaff team on this date for
   discussion of the above history, physical, exam and assessment and plan
   with which I agree.  I would add the following comments.
   Patient is an 85 yo male admitted with sepsis and respiratory failure.
   He has had hospital course complicated by renal failure.  With IVF
   given patient has had some improvement in lactic acidosis but with
   continued pressor requirement and source of infection remains to be
   definitively defined.
   EXAM-
   Patient with continued A/C support
   Lungs-decreased breath sounds but no focal crackles or wheezes.
   LABS-
   Blood Cultures-_Coag negative staph seen in blood culture on initial
   culture with follow ups pending at this time
   CXR-
   ETT, CVL in good position and with R>L LL opacities and concern for
   possible left sided effusion
   A/P
By problems
   1)Sepsis-Will continue with broad spectrum antibiotics pending final
   sensitivities
   -Will continue vasopressin and look to wean levophed as possible-have
   had some improvement
   -With culture concerning for coag negative staph will have to consider
   TTE going forward with TEE likely more high yield to look for seeing if
   true pathogen defined.
   2)Respiratory Failure-
   -Will move to PSV as tolerated with stabilization of PaO2 and
   persistent improvement in infiltrates
   -Will maintain Low Vt
   Additional issues to be addressed as defined in the note above.
   Critical Care Time-33 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2102-1-8**] 17:23 ------

2102-01-09 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - oseltamivir changed to 75 mg [**Hospital1 **] dosing per pharmacy
   - levophed weaned from 0.1 to 0.02 over course of the day
   - vasopressin still on
   - had HRs into 110s overnight; responded to 10 mg IV dilt and 1L IVFs
   LR without change in blood pressure
   - tried to call Madanock for cx data, but not available when I called
   at night; number is [**Telephone/Fax (1) 10250**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-1-8**] 10:33 AM
   Levofloxacin - [**2102-1-8**] 02:17 PM
   Tamiflu - [**2102-1-8**] 09:00 PM
   Cefipime - [**2102-1-9**] 12:42 AM
   Metronidazole - [**2102-1-9**] 02:31 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Diltiazem - [**2102-1-9**] 01:30 AM
   Heparin Sodium (Prophylaxis) - [**2102-1-9**] 02:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-1-9**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 97 (78 - 117) bpm
   BP: 100/56(69) {87/49(61) - 129/61(81)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 7 (6 - 12)mmHg
   Total In:
                                                                  2,577 mL
                                                                  1,381 mL
   PO:
   TF:
                                                                     86 mL
                                                                     59 mL
   IVF:
                                                                  2,432 mL
                                                                  1,322 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                    720 mL
   Urine:
                                                                  1,990 mL
                                                                    720 mL
   NG:
                                                                    240 mL
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                    197 mL
                                                                    661 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (460 - 460) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 85
   PIP: 15 cmH2O
   Plateau: 11 cmH2O
   Compliance: 76.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.40/30/129/18/-4
   Ve: 11.3 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   7.1 g/dL
   125 mg/dL
   2.0 mg/dL
   18 mEq/L
   3.5 mEq/L
   51 mg/dL
   117 mEq/L
   142 mEq/L
   22.8 %
   12.1 K/uL
        [image002.jpg]
                            [**2102-1-7**]  04:42 AM
                            [**2102-1-7**]  04:49 AM
                            [**2102-1-7**]  08:53 AM
                            [**2102-1-8**]  03:09 AM
                            [**2102-1-8**]  03:15 AM
                            [**2102-1-8**]  03:24 AM
                            [**2102-1-8**]  02:31 PM
                            [**2102-1-8**]  03:57 PM
                            [**2102-1-9**]  04:45 AM
                            [**2102-1-9**]  05:12 AM
   WBC
   27.4
   20.4
   12.1
   Hct
   30.0
   25.7
   22.8
   Plt
   [**Telephone/Fax (3) 10251**]
   Cr
   2.6
   2.5
   2.2
   2.0
   TropT
   0.38
   0.28
   0.21
   0.16
   TCO2
   15
   18
   17
   18
   19
   Glucose
   [**Telephone/Fax (3) 10252**]25
   Other labs: PT / PTT / INR:16.4/43.1/1.5, CK / CKMB /
   Troponin-T:26/8/0.16, ALT / AST:48/24, Alk Phos / T Bili:174/0.3,
   Differential-Neuts:93.6 %, Lymph:3.8 %, Mono:2.3 %, Eos:0.0 %, Lactic
   Acid:1.8 mmol/L, LDH:299 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   85 y/o M with hx of CHF, DM, sacral decubs, afib and dementia who
   presents with altered mental status and hypotension, likely secondary
   to septic shock from possible pneumonia.  Complicated by afib with RVR
   during presentation.
   .
   # Hypotension - likely secondary to septic shock from pneumonia vs.
   urinary source vs. sacral source.  Was transferred on dopamine.  Flu
   DFA negative.  Sputum growing GPCs, GNRs and GPRs; also one positive
   blood cx with GPCs, so is likely secondary to pneumonia.
   - fluid resuccitated, goal CVP 8 today
   - transition from neo to levophed and vasopressin; will try to wean
   today as tolerated
   - vanco, cefepime, levo, flagyl for broad coverage
   - osteltamivir  for flu treatment until culture negative from state lab
   - f/u XRays and cultures and legionella antigen
   - follow SvO2
   - to eval for other sources
 CT abd without a source
   - [**Doctor First Name 91**] saw for decubs and debrided at bedside, do no think they are
   source of infection
   .
   # Respiratory Failure - most likely secondary to pneumonia, still
   having thick secretions
   - PNA treatment as above.
   - low tidal volume ventilation on AC
   - serial ABGs
   - try to wean vent as tolerated, possible to decrease PEEP today
   .
   # Afib with RVR - had rates in the 190s with drop in BPs; now has
   normalized since being on dilt gtt.  [**Month (only) 8**] have been exaccerbated by
   peripheral dopa.
   - in normal sinus rhythm now, amio will be next treatment
   - hold digoxin
   .
   # Trop leak - likely demand ischemia, trend trops/CKs; will get echo to
   rule out for wall motion abnormality
   -repeat EKG today
   - echo pending
   .
   # Hypernatremia - likely from poor PO intake and free water deficit.
   - resolved after D5W
   .
   # ARF - Likely FeNa 0.7 consistant with pre-renal etiology.  Improving
   with hydration.  unknown baseline for patient.  Urine output improved
   with resuscitation.  Has hx of acute renal failure with Cr up to 7.2 at
   OSH about one month ago
   - renal following; has improved and is having good urine output
   - continue to trend
   - renally dose meds
   .
   # COPD - unknown extent to which this is contributing to his
   respiratory failure.
   - albuterol/ipratropium INH
   .
   # Sacral decubs
 wound/[**Doctor First Name 91**] consult
   .
   # Dementia - unclear baseline, will discuss with family
   .
   # Depression
 paxil 30 mg daily
   .
   # DM - unclear how controlled it is; will start basic sliding scale,
   titrate up as needed; on home latus 18qHS
   .
   # FEN - NPO for now, consider tube feeds when more stable
   # PPx - SQ heparin, bowel reg PRN, famoitidine
   # Access
 subclavian CVL, 2 PIVS; a-line
   # Comm - [**Doctor Last Name **], wife see chart; need to revisit goals of care.  SW
   involved.
   # Code - full
   # Dispo - ICU for now
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2102-1-9**] 04:30 AM 20 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2102-1-6**] 05:00 AM
   Arterial Line - [**2102-1-6**] 12:17 PM
   Multi Lumen - [**2102-1-7**] 02:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2102-01-09 12:43:00 Physician Attending Progress Note
HPI:
   85M w/ dementia and presents with shock and respiratory failure.
   24 Hour Events:
   Weaned pressors overnight.
   Generally stable and improving.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2102-1-8**] 02:17 PM
   Tamiflu - [**2102-1-8**] 09:00 PM
   Cefipime - [**2102-1-9**] 12:42 AM
   Vancomycin - [**2102-1-9**] 08:10 AM
   Metronidazole - [**2102-1-9**] 10:30 AM
   Other ICU medications:
   Diltiazem - [**2102-1-9**] 01:30 AM
   Heparin Sodium (Prophylaxis) - [**2102-1-9**] 02:31 AM
   Other medications:
   Famotidine
   Paroxetine
   Albuterol q4h
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-1-9**] 12:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 101 (83 - 117) bpm
   BP: 120/64(81) {87/49(61) - 129/68(81)} mmHg
   RR: 25 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 7 (7 - 9)mmHg
   Total In:
                                                                  2,577 mL
                                                                  1,958 mL
   PO:
   TF:
                                                                     86 mL
                                                                    157 mL
   IVF:
                                                                  2,432 mL
                                                                  1,801 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                  1,120 mL
   Urine:
                                                                  1,990 mL
                                                                  1,120 mL
   NG:
                                                                    240 mL
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                    197 mL
                                                                    838 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (460 - 460) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 85
   PIP: 11 cmH2O
   Plateau: 11 cmH2O
   Compliance: 76.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/30/129/18/-4
   Ve: 13.2 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Gen: Moves to clapping and stimulation. Does not open eyes of follow
   commands.
   Chest: Clear anterior, bronchial breath sounds at left base
   CV: IR/IR
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   7.1 g/dL
   215 K/uL
   125 mg/dL
   2.0 mg/dL
   18 mEq/L
   3.5 mEq/L
   51 mg/dL
   117 mEq/L
   142 mEq/L
   22.8 %
   12.1 K/uL
        [image002.jpg]
                            [**2102-1-7**]  04:42 AM
                            [**2102-1-7**]  04:49 AM
                            [**2102-1-7**]  08:53 AM
                            [**2102-1-8**]  03:09 AM
                            [**2102-1-8**]  03:15 AM
                            [**2102-1-8**]  03:24 AM
                            [**2102-1-8**]  02:31 PM
                            [**2102-1-8**]  03:57 PM
                            [**2102-1-9**]  04:45 AM
                            [**2102-1-9**]  05:12 AM
   WBC
   27.4
   20.4
   12.1
   Hct
   30.0
   25.7
   22.8
   Plt
   [**Telephone/Fax (3) 10251**]
   Cr
   2.6
   2.5
   2.2
   2.0
   TropT
   0.38
   0.28
   0.21
   0.16
   TCO2
   15
   18
   17
   18
   19
   Glucose
   [**Telephone/Fax (3) 10252**]25
   Other labs: PT / PTT / INR:16.4/43.1/1.5, CK / CKMB /
   Troponin-T:26/8/0.16, ALT / AST:48/24, Alk Phos / T Bili:174/0.3,
   Differential-Neuts:93.6 %, Lymph:3.8 %, Mono:2.3 %, Eos:0.0 %, Lactic
   Acid:1.8 mmol/L, LDH:299 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.8
   mg/dL
   Vanc Trough: 18
   Micro:
   Cdiff negative
   Sputum ([**1-6**]): no growth on culture
   Blood ([**1-8**]): NGTD
   Viral panel: negative (rapid)
   CXR: pending
   Assessment and Plan
   85yoM with sepsis, likely PNA.
   1.       Sepsis: WBC improving, off pressors.  Suspect pulmonary source
   based on chest CT.
   -  cover with antibiotics for HCAP below
   2.       Respiratory Failure:  Barriers to extubation include mild
   hypoxemia, secretions, mental status
   - Improving oxygenation.  Change to PSV and wean sedation.
   - SBT today, likely will need further treatment of PNA and improvement
   of secretions prior to extubation.
   3.       PNA:
   - Discontinue flagyl and levofloxacin.  Continue
   cefepime/vancomycin/oseltamivir
   4.       Afib:
   - Restart lopressor
   5.       Anemia
   - Guaiac stool
   - repeat HCT, transfuse for HCT 21
   ICU Care
   Nutrition:  NovaSource Renal (Full) - [**2102-1-9**] 04:30 AM 20 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   22 Gauge - [**2102-1-6**] 05:00 AM
   Arterial Line - [**2102-1-6**] 12:17 PM
   Multi Lumen - [**2102-1-7**] 02:48 AM
   Prophylaxis:
   DVT: heparin prophylaxis
   Stress ulcer: famotidine
   VAP:  HOB/peridex/mouthcare
   Communication:   Family update today, will discuss code status
   Code status:  Full code
   Disposition : Remains intubated in ICU today
   Total time spent: 35min; patient is critically ill

2102-01-10 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2102-1-9**] 08:10 AM
   - weaned off pressors with neo at bedside prn.  CVP 16.
   - weaned vent to minimal settings, passed SBP, checked gas, but having
   copeous secretions
   - still sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2102-1-8**] 02:17 PM
   Tamiflu - [**2102-1-8**] 09:00 PM
   Vancomycin - [**2102-1-9**] 08:10 AM
   Metronidazole - [**2102-1-9**] 10:30 AM
   Cefipime - [**2102-1-10**] 12:30 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2102-1-9**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-1-10**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-1-10**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 106 (82 - 127) bpm
   BP: 117/53(72) {86/46(59) - 144/109(120)} mmHg
   RR: 28 (16 - 35) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 8 (2 - 12)mmHg
   Total In:
                                                                  2,411 mL
                                                                  1,205 mL
   PO:
   TF:
                                                                    360 mL
   IVF:
                                                                  2,051 mL
                                                                  1,205 mL
   Blood products:
   Total out:
                                                                  2,195 mL
                                                                  1,340 mL
   Urine:
                                                                  2,195 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    216 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (460 - 460) mL
   Vt (Spontaneous): 549 (549 - 645) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.44/27/84.[**Numeric Identifier 117**]/18/-3
   Ve: 14 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   233 K/uL
   8.2 g/dL
   128 mg/dL
   1.6 mg/dL
   18 mEq/L
   3.5 mEq/L
   43 mg/dL
   120 mEq/L
   147 mEq/L
   25.1 %
   12.8 K/uL
        [image002.jpg]
                            [**2102-1-8**]  03:15 AM
                            [**2102-1-8**]  03:24 AM
                            [**2102-1-8**]  02:31 PM
                            [**2102-1-8**]  03:57 PM
                            [**2102-1-9**]  04:45 AM
                            [**2102-1-9**]  05:12 AM
                            [**2102-1-9**]  02:47 PM
                            [**2102-1-9**]  02:59 PM
                            [**2102-1-9**]  10:33 PM
                             [**2102-1-10**]  04:51 AM
   WBC
   20.4
   12.1
   12.8
   Hct
   25.7
   22.8
   23.9
   25.1
   Plt
   [**Telephone/Fax (3) 10278**]
   Cr
   2.2
   2.0
   1.6
   TropT
   0.21
   0.16
   TCO2
   17
   18
   19
   18
   19
   Glucose
   139
   125
   128
   Other labs: PT / PTT / INR:14.7/29.1/1.3, CK / CKMB /
   Troponin-T:26/8/0.16, ALT / AST:43/23, Alk Phos / T Bili:255/0.4,
   Differential-Neuts:93.6 %, Lymph:3.8 %, Mono:2.3 %, Eos:0.0 %, Lactic
   Acid:1.8 mmol/L, Albumin:1.7 g/dL, LDH:198 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   85 y/o M with hx of CHF, DM, sacral decubs, afib and dementia who
   presents with altered mental status and hypotension, likely secondary
   to septic shock from possible pneumonia.  Complicated by afib with RVR
   during presentation.
   .
   # Hypotension
 Improved, off pressors. Likely PNA as source of septic
   shock. No lower respiratory cultures growing pathogens and none sent
   for influenza. Has been having significant yellow secretions from ETT.
   - transition from neo to levophed and vasopressin; will try to wean
   today as tolerated
   - vanco, cefepime,
   - D/c metronidazole as Cdiff negative
   - d/c levoflox
   - osteltamivir  for flu treatment d/c [**1-10**]
   - [**Doctor First Name 91**] saw for decubs and debrided at bedside, do no think they are
   source of infection
   .
   # Respiratory Failure - most likely secondary to pneumonia, still
   having thick secretions
   - Wake up today, discuss baseline mental status with family
   - SBT today
   - Consider extubation tomorrow if secretions improved.
   - PNA treatment as above.
   - low tidal volume ventilation on AC
   - try to wean vent as tolerated, possible to decrease PEEP today
   .
   # Afib with RVR
 Fairly well controlled currently, got 10mg IV dilt
   o/n On metoprolol and amiodarone at home.
   -  restart metoprolol low dose 12.5mg QID today
   - Consider restart amiodarone tomorrow.
   .
   # Trop leak - No
   .
   # Hypernatremia - likely from poor PO intake and free water deficit.
   - resolved after D5W
   .
   # ARF - Likely FeNa 0.7 consistant with pre-renal etiology.  Improving
   with hydration.  unknown baseline for patient.  Urine output improved
   with resuscitation.  Has hx of acute renal failure with Cr up to 7.2 at
   OSH about one month ago
   - renal following; has improved and is having good urine output
   - continue to trend
   - renally dose meds
   .
   # COPD - unknown extent to which this is contributing to his
   respiratory failure.
   - albuterol/ipratropium INH
   .
   # Sacral decubs
 wound/[**Doctor First Name 91**] consult
   .
   # Dementia - unclear baseline, will discuss with family
   .
   # Depression
 paxil 30 mg daily
   .
   # DM - unclear how controlled it is; will start basic sliding scale,
   titrate up as needed
   - consider restart home lantus 18U today
   .
   # FEN - NPO for now, consider tube feeds when more stable
   # PPx - SQ heparin, bowel reg PRN, famoitidine
   # Access
 subclavian CVL, 2 PIVS; a-line
   # Comm - [**Doctor Last Name **], wife see chart; need to revisit goals of care.  SW
   involved.
   # Code - full
   # Dispo - ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2102-1-6**] 05:00 AM
   Arterial Line - [**2102-1-6**] 12:17 PM
   Multi Lumen - [**2102-1-7**] 02:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2102-01-10 10:54:00 Physician Attending Progress Note
HPI:
   85yoM with PNA and sepsis with gradual improvement.
   24 Hour Events:
   Weaned off pressors yesterday morning.  Passed SBT yesterday;
   secretions overnight but improving today.  DNR after family discussion
   yesterday but would desire re-intubation if needed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tamiflu - [**2102-1-8**] 09:00 PM
   Cefipime - [**2102-1-10**] 12:30 AM
   Vancomycin - [**2102-1-10**] 08:14 AM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-1-10**] 02:00 AM
   Other medications:
   Albuterol/atrovent
   Famotidine
   Paroxetine
   Metoprolol
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2102-1-10**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.2
   HR: 107 (82 - 127) bpm
   BP: 113/59(77) {86/46(59) - 144/109(120)} mmHg
   RR: 30 (15 - 35) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 11 (2 - 12)mmHg
   Total In:
                                                                  2,411 mL
                                                                  1,435 mL
   PO:
   TF:
                                                                    360 mL
   IVF:
                                                                  2,051 mL
                                                                  1,435 mL
   Blood products:
   Total out:
                                                                  2,195 mL
                                                                  1,940 mL
   Urine:
                                                                  2,195 mL
                                                                  1,940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    216 mL
                                                                   -505 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 460 (460 - 460) mL
   Vt (Spontaneous): 542 (542 - 645) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.44/27/84.[**Numeric Identifier 117**]/18/-3
   Ve: 14.5 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Gen: Opens eyes to voice and stimulus; does not follow commands
   Chest: Rhonchi cleared with suctioning
   CV: IR/IR
   Abd: s/nt/nd
   Ext:1+ edema B symmetric
   Labs / Radiology
   8.2 g/dL
   233 K/uL
   128 mg/dL
   1.6 mg/dL
   18 mEq/L
   3.5 mEq/L
   43 mg/dL
   120 mEq/L
   147 mEq/L
   25.1 %
   12.8 K/uL
        [image002.jpg]
                            [**2102-1-8**]  03:15 AM
                            [**2102-1-8**]  03:24 AM
                            [**2102-1-8**]  02:31 PM
                            [**2102-1-8**]  03:57 PM
                            [**2102-1-9**]  04:45 AM
                            [**2102-1-9**]  05:12 AM
                            [**2102-1-9**]  02:47 PM
                            [**2102-1-9**]  02:59 PM
                            [**2102-1-9**]  10:33 PM
                             [**2102-1-10**]  04:51 AM
   WBC
   20.4
   12.1
   12.8
   Hct
   25.7
   22.8
   23.9
   25.1
   Plt
   [**Telephone/Fax (3) 10278**]
   Cr
   2.2
   2.0
   1.6
   TropT
   0.21
   0.16
   TCO2
   17
   18
   19
   18
   19
   Glucose
   139
   125
   128
   Other labs: PT / PTT / INR:14.7/29.1/1.3, CK / CKMB /
   Troponin-T:26/8/0.16, ALT / AST:43/23, Alk Phos / T Bili:255/0.4,
   Differential-Neuts:93.6 %, Lymph:3.8 %, Mono:2.3 %, Eos:0.0 %, Lactic
   Acid:1.8 mmol/L, Albumin:1.7 g/dL, LDH:198 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Blood cultures: no growth to date
   Sputum ([**1-9**]): negative
   Cdiff: negative
   CXR: Overall stable
   Assessment and Plan
   85[**Hospital **] nursing home resident with PNA and resolving sepsis.
   1.  Respiratory failure:  secretions improved, awake and has cough
   suggesting ability to protect airway despite not following commands,
   passed SBT.
   - Extubate today
   - Aim for TBB negative 500ml today if tolerates with BP
   2.  Renal:  Creatinine improving
   - diuresis today
   3. Afib:  Lopressor for rate control.  Will give dose as tolerates.
   4. Hypernatremia:  Increase free water
   5. ID: - completed osteltamivir; vanc/cefepime x 8 day course
   ICU Care
   Nutrition: Holding tube feeds for possible extubation; place NGT prior
   to extubation
   Glycemic Control:  Glucose well controlled, will restart insulin when
   extubated and back on tube feeds.
   Lines:
   22 Gauge - [**2102-1-6**] 05:00 AM
   Arterial Line - [**2102-1-6**] 12:17 PM
   Multi Lumen - [**2102-1-7**] 02:48 AM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer:   PPI
   VAP:  HOB/peridex/mouthcare
   Communication:  Family updated yesterday
   Code status:  DNR, ok for reintubation
   Disposition : Remains in ICU critically ill today
   Total time spent:  35minutes

2102-01-11 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 85 y/o M with hx of CHF, DM, sacral decubs, afib and
   dementia who presents with altered mental status and hypotension,
   likely secondary to septic shock from possible pneumonia.  Complicated
   by afib with RVR during presentation.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2102-1-10**] 01:00 PM
   Received patient from OSH
   Diuresed
   Extubated
   Restarted tube feeds
   Restarted [**First Name9 (NamePattern2) **]
   [**First Name8 (NamePattern2) 1012**] [**Last Name (NamePattern1) 1082**] discussed code status with his wife and she would prefer do
   not reintubate but she will discuss this with daughter who strongly
   favors reintubation.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2102-1-8**] 02:17 PM
   Tamiflu - [**2102-1-8**] 09:00 PM
   Metronidazole - [**2102-1-9**] 10:30 AM
   Vancomycin - [**2102-1-10**] 08:14 AM
   Cefipime - [**2102-1-11**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-1-11**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 93 (86 - 116) bpm
   BP: 132/66(88) {92/56(71) - 142/106(118)} mmHg
   RR: 23 (15 - 32) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 4 (0 - 11)mmHg
   Total In:
                                                                  2,288 mL
                                                                  1,369 mL
   PO:
   TF:
                                                                    178 mL
                                                                    282 mL
   IVF:
                                                                  2,110 mL
                                                                  1,087 mL
   Blood products:
   Total out:
                                                                  4,900 mL
                                                                    680 mL
   Urine:
                                                                  4,900 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,612 mL
                                                                    689 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 548 (542 - 548) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 97%
   ABG: 7.49///19/
   Ve: 15.7 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Unresponsive, No(t) Oriented
   (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   304 K/uL
   8.4 g/dL
   195 mg/dL
   1.3 mg/dL
   19 mEq/L
   3.0 mEq/L
   34 mg/dL
   123 mEq/L
   150 mEq/L
   26.4 %
   12.5 K/uL
        [image002.jpg]
                            [**2102-1-8**]  03:24 AM
                            [**2102-1-8**]  02:31 PM
                            [**2102-1-8**]  03:57 PM
                            [**2102-1-9**]  04:45 AM
                            [**2102-1-9**]  05:12 AM
                            [**2102-1-9**]  02:47 PM
                            [**2102-1-9**]  02:59 PM
                            [**2102-1-9**]  10:33 PM
                             [**2102-1-10**]  04:51 AM
                             [**2102-1-11**]  03:36 AM
   WBC
   12.1
   12.8
   12.5
   Hct
   22.8
   23.9
   25.1
   26.4
   Plt
   [**Telephone/Fax (3) 10295**]
   Cr
   2.2
   2.0
   1.6
   1.3
   TropT
   0.21
   0.16
   TCO2
   17
   18
   19
   18
   19
   Glucose
   139
   125
   128
   195
   Other labs: PT / PTT / INR:14.7/29.1/1.3, CK / CKMB /
   Troponin-T:26/8/0.16, ALT / AST:43/23, Alk Phos / T Bili:255/0.4,
   Differential-Neuts:93.6 %, Lymph:3.8 %, Mono:2.3 %, Eos:0.0 %, Lactic
   Acid:1.8 mmol/L, Albumin:1.7 g/dL, LDH:198 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   85 y/o M with hx of CHF, DM, sacral decubs, afib and dementia who
   presents with altered mental status and hypotension, likely secondary
   to septic shock from possible pneumonia.  Complicated by afib with RVR
   during presentation.
   .
   # Hypotension
 Resolved
   - vanco, cefepime to finish treatment for HAP
   - [**Doctor First Name 91**] saw for decubs and debrided at bedside, do no think they are
   source of infection
   -Stop tamiflu as culture negative for influenza
   .
   # Respiratory Failure Secretions improved today, mental status appears
   back to recent baseline.  Extubated yesterday and satting well
   - PNA treatment as above.
   .
   # Afib with RVR
 Fairly well controlled currently but still a little
   fast
   -  up titrate metoprolol to home dose 25mg QID today
   - Consider restart amiodarone tomorrow.
   # Hypernatremia - poor PO intake
   - 2L D5W
   -Increase FW flushes in TF
   .
   # ARF
 Resolving
   - Trend Cr
   .
   # COPD - unknown extent to which this is contributing to his
   respiratory failure.
   - albuterol/ipratropium INH
   .
   # Sacral decubs
 wound consult
   .
   # Dementia
 Very poor baseline. Discussed hospice options with family
   .
   # Depression
 paxil 30 mg daily
   .
   # DM - unclear how controlled it is; will start basic sliding scale,
   titrate up as needed. Also started half home dose [**Doctor First Name **] last night
   with restarting TF
   - consider uptitrating to home [**Doctor First Name **] 18U today if still high
   .
   # FEN - tube feeds
   # PPx - SQ heparin, bowel reg PRN, famoitidine
   # Access
 subclavian CVL, 2 PIVS; a-line
   # Comm - [**Doctor Last Name **], wife see chart; need to revisit goals of care.  SW
   involved.
   # Code
 DNR ok to reintubate for now.
   # Dispo
 Call out today
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2102-1-10**] 03:14 PM 37 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2102-1-6**] 05:00 AM
   Arterial Line - [**2102-1-6**] 12:17 PM
   Multi Lumen - [**2102-1-7**] 02:48 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2102-01-11 11:59:00 Physician Attending Progress Note
HPI:
   85yoM with PNA, sepsis, and respiratory failure; now improving.
   24 Hour Events:
   Extubated yesterday and doing generally well.
   Continued diuresis.  Remains afebrile and stable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-1-10**] 08:14 AM
   Cefipime - [**2102-1-11**] 12:00 AM
   Other ICU medications:
   Heparin prophylaxis
   Famotidine
   Other medications:
   Metoprolol
   Calcium
   Insulin sliding Scale
   Coumadin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-1-11**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 115 (86 - 115) bpm
   BP: 142/72(94) {92/56(71) - 196/187(191)} mmHg
   RR: 31 (18 - 33) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 4 (0 - 11)mmHg
   Total In:
                                                                  2,288 mL
                                                                  2,085 mL
   PO:
   TF:
                                                                    178 mL
                                                                    322 mL
   IVF:
                                                                  2,110 mL
                                                                  1,763 mL
   Blood products:
   Total out:
                                                                  4,900 mL
                                                                  1,080 mL
   Urine:
                                                                  4,900 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,612 mL
                                                                  1,005 mL
   Respiratory support
   O2 Delivery Device: FM FiO2 .4; SpO295%
   Physical Examination
   Gen: Awake but not conversant, does not follow commands
   Chest: Clear anterior
   CV:  Tachy, IR
   Abd:s/nt/nd
   Ext: LE and UE edema; symmetric
   Labs / Radiology
   8.4 g/dL
   304 K/uL
   195 mg/dL
   1.3 mg/dL
   19 mEq/L
   3.0 mEq/L
   34 mg/dL
   123 mEq/L
   150 mEq/L
   26.4 %
   12.5 K/uL
        [image002.jpg]
                            [**2102-1-8**]  03:24 AM
                            [**2102-1-8**]  02:31 PM
                            [**2102-1-8**]  03:57 PM
                            [**2102-1-9**]  04:45 AM
                            [**2102-1-9**]  05:12 AM
                            [**2102-1-9**]  02:47 PM
                            [**2102-1-9**]  02:59 PM
                            [**2102-1-9**]  10:33 PM
                             [**2102-1-10**]  04:51 AM
                             [**2102-1-11**]  03:36 AM
   WBC
   12.1
   12.8
   12.5
   Hct
   22.8
   23.9
   25.1
   26.4
   Plt
   [**Telephone/Fax (3) 10295**]
   Cr
   2.2
   2.0
   1.6
   1.3
   TropT
   0.21
   0.16
   TCO2
   17
   18
   19
   18
   19
   Glucose
   139
   125
   128
   195
   Other labs: PT / PTT / INR:14.7/29.1/1.3, CK / CKMB /
   Troponin-T:26/8/0.16, ALT / AST:43/23, Alk Phos / T Bili:255/0.4,
   Differential-Neuts:93.6 %, Lymph:3.8 %, Mono:2.3 %, Eos:0.0 %, Lactic
   Acid:1.8 mmol/L, Albumin:1.7 g/dL, LDH:198 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.5 mg/dL
   CXR: Increased RLL opacity
   Micro:  no new culture
   Viral panel negative
   Assessment and Plan
   85M with PNA leading to respiratory failure and sepsis; now stable
   extubated and off pressors.
   1.  PNA: cultures negative; WBC improving, afebrile
   - complete course of Vancomycin/cefepime
   2.  Respiratory failure: resolved
   - Diuresis today with goal TBB negative 1L today
   3.  Sepsis: resolved; off pressors
   4.  CV: afib RVR
   - titrate up lopressor today
   5. Hypernatremia:
   - Increase free water boluses
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Glucose generally < 150
   Lines:
   Arterial Line - [**2102-1-6**] 12:17 PM
   Multi Lumen - [**2102-1-7**] 02:48 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  PPI
   VAP:  Not intubated
   Communication:  Will update family
   Code status:  DNR , but ok for re-intubation.  Palliative care is
   following
   Disposition : Transfer to floor today
   Total time spent: 25 min